### PR TITLE
[Merged by Bors] - feat(Algebra/Order/Chebyshev): the Cauchy–Schwarz inequality for multisets

### PR DESCRIPTION
**Pull request by teorth**
Add `Multiset.sq_sum_le_card_mul_sum_sq`, the multiset analogue of the existing `sq_sum_le_card_mul_sum_sq`: `m.sum ^ 2 ≤ m.card * (m.map (· ^ 2)).sum`. It is derived from the `Finset` version via `Multiset.toEnumFinset`, combined with a new helper lemma `Multiset.sum_map_eq_sum_toEnumFinset` to convert between `Multiset.sum` and `Finset.sum` when a `Multiset.map` is involved.

---
The code here was prepared with AI assistance, but then golfed and reviewed by myself.  It will be used in a forthcoming PR on the Newton and Maclaurin inequalities.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Chebyshev.lean [hunk 1]
```diff
@@ -10,6 +10,7 @@ public import Mathlib.Algebra.Order.Rearrangement
 public import Mathlib.GroupTheory.Perm.Cycle.Basic
 public import Mathlib.Tactic.GCongr
 public import Mathlib.Tactic.Positivity
+import Mathlib.Data.Multiset.Fintype
```
Comment (felixpernegger) [inline Mathlib/Algebra/Order/Chebyshev.lean:14]:
```suggestion

import Mathlib.Data.Multiset.Fintype
```

File: Mathlib/Algebra/Order/Chebyshev.lean [hunk 2]
```diff
@@ -137,6 +138,17 @@ theorem sq_sum_le_card_mul_sum_sq : (∑ i ∈ s, f i) ^ 2 ≤ #s * ∑ i ∈ s,
   simp_rw [sq]
   exact (monovaryOn_self _ _).sum_mul_sum_le_card_mul_sum
 
+/-- Special case of **Chebyshev's Sum Inequality** or the **Cauchy-Schwarz Inequality** for a
+multiset: the square of the sum is at most the cardinality times the sum of the squares. -/
+theorem _root_.Multiset.sq_sum_le_card_mul_sum_sq (m : Multiset α) :
```
Comment (felixpernegger) [inline Mathlib/Algebra/Order/Chebyshev.lean]:
```suggestion
theorem Multiset.sq_sum_le_card_mul_sum_sq (m : Multiset α) :
```
any reason for this?

File: Mathlib/Algebra/Order/Chebyshev.lean [hunk 3]
```diff
@@ -137,6 +138,17 @@ theorem sq_sum_le_card_mul_sum_sq : (∑ i ∈ s, f i) ^ 2 ≤ #s * ∑ i ∈ s,
...
+    m.sum ^ 2 ≤ m.card * (m.map (· ^ 2)).sum := by
+  have key (g : α → α) : (m.map g).sum = ∑ i ∈ m.toEnumFinset, g i.1 := by
+    grind [m.map_toEnumFinset_fst, Multiset.map_map, Finset.sum_map_val]
```
Comment (felixpernegger) [inline Mathlib/Algebra/Order/Chebyshev.lean]:
```suggestion
  have key (g : α → α) : (m.map g).sum = ∑ i ∈ m.toEnumFinset, g i.1 := by
    grind [m.map_toEnumFinset_fst, map_map, sum_map_val]
```
this seems useful enough to extract i think? There dont seem to be many theorems in this directions
https://loogle.lean-lang.org/?q=%7C-+Multiset.sum+%28Multiset.map+_+_%29+%3D+Finset.sum+_+_

File: Mathlib/Algebra/Order/Chebyshev.lean [hunk 4]
```diff
@@ -137,6 +138,17 @@ theorem sq_sum_le_card_mul_sum_sq : (∑ i ∈ s, f i) ^ 2 ≤ #s * ∑ i ∈ s,
...
+  have := key id
+  have := key (· ^ 2)
+  have := _root_.sq_sum_le_card_mul_sum_sq (s := m.toEnumFinset) (f := Prod.fst)
+  simp_all [Multiset.card_toEnumFinset]
```
Comment (felixpernegger) [inline Mathlib/Algebra/Order/Chebyshev.lean]:
```suggestion
  have := _root_.sq_sum_le_card_mul_sum_sq (s := m.toEnumFinset) (f := Prod.fst)
  simp_all [sum_eq_sum_toEnumFinset m, key (· ^ 2)]
```
Then you could also use `simpa [...] using` or even just `simpa [...]` (though the latter looks like hidden defeq abuse)

File: Mathlib/Algebra/Order/Chebyshev.lean (hunk 2 above)
Comment (teorth) [reply Mathlib/Algebra/Order/Chebyshev.lean]: You're right, this was unnecessary (it was a legacy from when this lemma was in a different namespace)

Comment (felixpernegger) [reply Mathlib/Algebra/Order/Chebyshev.lean]: I got confused by the CI error; applying this should fix it

**Review by felixpernegger — APPROVED** [review]

**Comment by ocfnash** [comment]
Thanks!

bors merge
